US05158952
A mixture of 10 parts of 3-(2-chloroethyl)-7-methoxy-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one, 40 parts of 2-propanol saturated with hydrogen chloride and 160 parts of methanol was hydrogenated at normal pressure and at room temperature with 2.0 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off over diatomaceous earth and the filtrate was evaporated. The oily residue was taken up in 80 parts of 2-propanol and 2,2'-oxybispropane. After stirring overnight at room temperature, the precipitated product was filtered off, washed with a mixture of 2-propanol and 2,2'-oxybispropane and dried in vacuo at 50° C., yielding 7.5 parts (64.0%) of 3-(2-chloroethyl)-6,7,8,9-tetrahydro-7-methoxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one monohydrochloride; mp. 170° C. (intermediate 4)

reactant | 3-(2-chloroethyl)-7-methoxy-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one | ClCCC1=C(N=C2N(C1=O)C=C(C=C2)OC)C | C12H13ClN2O2
reactant | 2-propanol | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3-(2-chloroethyl)-6,7,8,9-tetrahydro-7-methoxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one monohydrochloride | 64.0% | Cl.ClCCC1=C(N=C2N(C1=O)CC(CC2)OC)C | InChI=1S/C12H17ClN2O2.ClH/c1-8-10(5-6-13)12(16)15-7-9(17-2)3-4-11(15)14-8;/h9H,3-7H2,1-2H3;1H
